US04472433
A mixture of 2-oxo-3-methyl-7-(2-chlorophenoxy)indoline (4 g.), sodium hydroxide (2.4 g.), dioxane (25 ml.) water (25 ml.) was refluxed under heating for 5 days with stirring. After cooling, the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. To the residue was added water and the mixture was washed with diethyl ether. Ethyl acetate was added to the aqueous solution and adjusted to pH 4 to 5 with 5% sulfuric acid. The ethyl acetate layer was separated, washed with water and dried over magnesium sulfate and the solvent was distilled off under reduced pressure to give oily 2-[2-amino-3-(2-chlorophenoxy)phenyl]propionic acid (2.4 g.). This compound was dissolved in an aqueous solution of sodium bicarbonate and filtered. The filtrate was concentrated to dryness under reduced pressure and the residue was dissolved in ethyl acetate and filtered. The filtrate was evaporated under reduced pressure, and the residue was dissolved in water and lyophilized to give light brown powder of the captioned compound (1.6 g.).

reactant | 2-oxo-3-methyl-7-(2-chlorophenoxy)indoline | 4 g | O=C1NC2=C(C=CC=C2C1C)OC1=C(C=CC=C1)Cl | C15H12ClNO2
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 2-[2-amino-3-(2-chlorophenoxy)phenyl]propionic acid | 2.4 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)C | C15H14ClNO3
